US06570031B1
43.3 g (0.2 mol) of N,N-dimethyldodecylamine were added in portions with stirring to 30.0 g (0.3 mol) of concentrated hydrochloric acid (37 wt. %). After the exothermic reaction (up to approx. 35° C.), the highly viscous mixture was diluted with 25 ml of concentrated hydrochloric acid and 25 ml of water and stirred overnight. The aqueous phase was then extracted with 100 ml of methylene chloride, the organic phase was washed once with 50 ml of water, dried with sodium sulfate and the solvent was removed under a vacuum. In order to remove any traces of water, the residue was resuspended in 50 ml of toluene and concentrated under a vacuum and the operation was then repeated in 80 ml of hexane. Once the solvent had again been removed by distillation under a vacuum, N,N-dimethyldodecylammonium hydrochloride was obtained as a colourless solid.

reactant | N,N-dimethyldodecylamine | 0.2 mol, 43.3 g | CN(C)CCCCCCCCCCCC | C14H31N
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | hydrochloric acid | 0.3 mol, 30.0 g | Cl | ClH
solvent | water | 25 ml | O | H2O
product | N,N-dimethyldodecylammonium hydrochloride | Cl.C[NH+](C)CCCCCCCCCCCC | InChI=1S/C14H31N.ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15(2)3;/h4-14H2,1-3H3;1H/p+1
